US03996282
Proceeding in a manner similar to that described in C-1, 185.5 parts of N,N-bis(3-formamidopropyl)methylamine and 171 parts of N-ethyl-N-(2-chloroethyl)aniline were interacted in 140 parts of water to obtain a nearly quantitative yield of N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-formamidopropyl)-ammonium chloride in the form of an aqueous solution.

reactant | N,N-bis(3-formamidopropyl)methylamine | C(=O)NCCCN(CCCNC=O)C | C9H19N3O2
reactant | N-ethyl-N-(2-chloroethyl)aniline | C(C)N(C1=CC=CC=C1)CCCl | C10H14ClN
solvent | water | O | H2O
product | N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-formamidopropyl)-ammonium chloride | quantitative yield | [Cl-].C[N+](CCCNC=O)(CCCNC=O)CCN(C1=CC=CC=C1)CC | InChI=1S/C19H32N4O2.ClH/c1-3-22(19-9-5-4-6-10-19)13-16-23(2,14-7-11-20-17-24)15-8-12-21-18-25;/h4-6,9-10,17-18H,3,7-8,11-16H2,1-2H3,(H-,20,21,24,25);1H
